US09024041B2
A suspension of sodium hydrogensulfide (1.53 g, 18.6 mmol) in NMP (8.0 mL) was purged with N2, and was added dropwise to a similarly purged solution of 2-chloro-4-fluoropyridine (1.74 g, 13.3 mmol) in NMP (6.0 mL) over 1 hr. The reaction mixture was kept at RT for 1 hr and then treated dropwise with a solution of 1-fluoro-4-nitronaphthalene (3.80 g, 19.9 mmol) and DIPEA (4.6 mL, 27 mmol) in NMP (10 mL) over 5 min. After a further 1 hr at RT MeOH (5.0 mL) was added and the reaction mixture kept at RT for 48 hr. The resulting mixture was diluted with EtOAc (250 mL) and was washed sequentially with 2M aq. NaOH (2×150 mL), saturated aq. NaHCO3 (150 mL), water (150 mL) and brine (2×150 mL) The organic layer was dried and evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, 120 g, EtOAc in isohexane, 10-30%, gradient elution) to afford 2-chloro-4-(4-nitronaphthalen-1-ylthio)pyridine as a yellow oil (1.95 g, 5.66 mmol, 43%); Rt 5.02 min (Method 1 basic); m/z 317 (M+H)+ (ES+).

reactant | sodium hydrogensulfide | 18.6 mmol, 1.53 g | S.[Na]
reactant | 2-chloro-4-fluoropyridine | 13.3 mmol, 1.74 g | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | 1-fluoro-4-nitronaphthalene | 19.9 mmol, 3.80 g | FC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6FNO2
reactant | DIPEA | 27 mmol, 4.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 8.0 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 6.0 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 5.0 mL | CO | CH4O
product | 2-chloro-4-(4-nitronaphthalen-1-ylthio)pyridine | 5.66 mmol, 1.95 g, 43% | ClC1=NC=CC(=C1)SC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C15H9ClN2O2S
